data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3731,"CO.O=C(OCC1=CC=CC=C1)N1CC(O)CC1C(O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8987,"CC(=O)[O:1][H:2].CCOC(=O)C1=C(C)[NH2+]C(C2=CC=CC=C2)([O-:3])C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7037,"C1=C[CH:1]=[CH:2]S1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,3883,"CC[C:1]#[NH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2962,"C1=CC=[C:1]([Li:2])C=C1.N#CC[C:3](C1=CC=CC=C1)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1972,"Cl[P+:1](Cl)(Cl)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4756,"C1=CC=C([P+](OCC2=CC3=C(C=CC=C3)C=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCOC(=O)N[N-:1]C(=O)OCC.O=C(CCCC=C(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7382,"CC1CC[C:1]([CH2:2][N+:3]#N)([OH:4])[CH2:5]1.O.[Cl-]|(4, 1);((1, 5), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1362,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)C(CC1=CNC2=C1C=CC=C2)NC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7010,"C=CC=[N:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8252,"O=S(=O)(O)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C(C(F)(F)F)=CC=C2.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5949,"CS(=O)(=O)C1=CC=C(C2=CC=C(N)C=C2)C=C1.O=N[OH:1].O=S(=O)([O-])[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3503,"C=C[C:1](Cl)=[O:2].[Li][Cu:3]([C]1=CC=CC=C1)[C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7209,"C1CCC2CC[CH2:1][O+:2]=C(C1)O2.CC(O)=[O:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6077,"CC1(C)CC(=O)C([C:1](C)([C:2]#N)[O-:3])C(=O)C1.CC[N+]([K])(CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7270,"C1C[C:1]2(CCC[CH+:2]2)[CH2:3]C1|((1, 3), 2)"
train,pmechdb_split_0,0,3001,"CCN[C:1](C)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3474,"CC(=O)[O-:1].CCOC(=O)C=CC1=C(C=[O+:2][H:3])C(F)=CC=C1.O.OCCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6221,"C=CC(O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1546,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(OC)C=C(C2OCCC[O+:1]2[H:2])C(Br)=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3946,"C[S+:1]([O:2][CH:3](C1=CC=CC=C1)[H:4])[CH2-:5].O=C(O)O.[Br-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5729,"C(#CC1=C([N:1]([H:2])[N:3]=[OH+:4])C=CC=C1)C1=CC=CC=C1.CC#N.CC(C)(C)[O:5][B-](F)(F)F|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4093,"CC(=O)C1=CO[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7457,"CN[C+:1](NC)[OH:2]|(2, 1)"
train,pmechdb_split_0,0,3987,"C1CC2CC1C[CH+:1]2.CC(O)=[O:2].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1)"
train,pmechdb_split_0,0,10107,"C1=CC=C(C(C2=CC=CC=C2)=[C-:1][Br:2])C=C1.CC(C)(C)[OH+][K].CS(C)=O|((1, 2), 2)"
train,pmechdb_split_0,0,2517,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCC(C2CCCCC2)CC1C1CCCCC1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4327,"CO[C:1](C)([O:2]C)[SH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1605,"CC(C)(O)[CH:1]([N+](=O)[O-])[H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6551,"CC[O+:1](C(C1=CC=CC=C1)C(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2690,"O[C:1](O)([NH3+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1173,"CN(C)[C:1](OCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4018,"CCO[P+:1](C)(C)C.COC(=O)N[N:2]=C(O)OC|(2, 1)"
train,pmechdb_split_0,0,2939,"C[O:1][CH+:2][S-]|(1, 2)"
train,pmechdb_split_0,0,2332,"[PH3:1]=[S:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3194,"CC(O)=[O:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,3685,"CCC[O:1]COC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,8321,"CCC(=O)N[C+:1]1C(Br)=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3695,"C=CCC1CC2CC(O[Si](C)(C)C(C)(C)C)CC(CC3=C(C(OC)=CC=C3)[C:1]([O-:2])([O:3][C:4](NC3CCCCC3)=[NH+:5]C3CCCCC3)O1)O2.CN(C)C1=CC=[NH+]C=C1|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6848,"CCCC[C:1](C1=CC=CC=C1)([O-:2])[O:3]CCC.[Li+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2027,"CC1=C[C:1](=[O:2])CCC1.COCC1CCCN1[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3908,"CC[N+:1](CC)(CC)[H:2].O=[N+]([O-])C1=C(Cl)[N:3]=C2C=CC=CC2=C1OP(=O)(Cl)Cl.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7381,"C1=CC=C(C([CH:1](C2=CC=CC=C2)[Cl:2])[O-:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9903,"N#CC1=CC=C2C=C[CH:1]=[CH:2]C2=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3272,"C1=CC=[NH+]C=C1.CCC1=C(CC2=CC=CC=C2)OC(C)=C1[Si:1](C)(C)C(C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,2859,"COC1=C(O)C2=C(C=C1)CC1C3CC([O:1]C)C(O)=CC23CCN1CCC1=CC=CC=C1.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10088,"CCCC1=CC(C)=C([O+:1](B(Br)Br)[CH3:2])C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2185,"CCC(=O)N[C+:1]1C(Br)=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
